US08623889B2
Step 1: methyl 5-bromo-3-chloro-4-methyl-pyridine-2-carboxylate
To a 0° C. solution of 5-bromo-3-chloro-4-methyl-pyridine-2-carbaldehyde (102 mg; 0.43501 mmol) in methanol (4 mL) was sequentially added a solution of potassium hydroxide (105 mg; 1.87149 mmol) in methanol (2 mL) and (dropwise) a solution of iodine (229 mg; 0.898 mmol) in methanol (4 mL). The reaction mixture was stirred at 0° C. for 2 hours, and then a 10% aqueous solution of sodium thiosulfate was added dropwise until the disappearance of the brown color. The reaction mixture was partitioned between ethyl acetate and water, and the organic layer dried with brine and magnesium sulfate, filtered, and evaporated in vacuo to yield 101.8 mg (88%) of the title compound which was carried forward without further purification. LCMS (ESI): M+H=264.0; 1H NMR (400 MHz, DMSO) δ 8.72 (s, 1H), 3.91 (s, 3H), 2.54 (s, 3H).

reactant | 5-bromo-3-chloro-4-methyl-pyridine-2-carbaldehyde | 0.43501 mmol, 102 mg | BrC=1C(=C(C(=NC1)C=O)Cl)C | C7H5BrClNO
reactant | potassium hydroxide | 1.87149 mmol, 105 mg | [OH-].[K+]
reactant | iodine | 0.898 mmol, 229 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 4 mL | CO | CH4O
reactant | methanol | 2 mL | CO | CH4O
reactant | methanol | 4 mL | CO | CH4O
product | methyl 5-bromo-3-chloro-4-methyl-pyridine-2-carboxylate | 101.8 mg, 88% | BrC=1C(=C(C(=NC1)C(=O)OC)Cl)C | C8H7BrClNO2
